US05336677
6-Methyl-5-propyl-2-trifluoromethyl-4H-pyrimidin-4-one
Ethyl 2-acetylpentanoic acid (17.2 g, 0.1 mol) in absolute EtOH was treated with 2.3 g, 0.1 mol) sodium until the metal was dissolved. Trifluoroacetamidine (11.5 g, 0.1 mol) was added and the mixture was refluxed for 3 h, then evaporated to dryness. The residue was taken up in H2O, acidified with 2N HCl, and extracted with EtOAc. The organic layer was washed with water (twice), dried, and evaporated to give an oil. Purification by flash chromatography (CH2Cl2, CH2Cl2 -EtOAc 5%) afforded 7.5 g (34%) of the desired compound as crystals.

reactant | Ethyl 2-acetylpentanoic acid | 0.1 mol, 17.2 g | C(C)C(C(=O)O)(CCC)C(C)=O | C9H16O3
reactant | sodium | [Na] | Na
reactant | Trifluoroacetamidine | 0.1 mol, 11.5 g | FC(C(=N)N)(F)F | C2H3F3N2
solvent | EtOH | CCO | C2H6O
product | 6-Methyl-5-propyl-2-trifluoromethyl-4H-pyrimidin-4-one | 7.5 g, 34% | CC1=C(C(NC(=N1)C(F)(F)F)=O)CCC | C9H11F3N2O
